US09085563B2
N-(2-(1-(2-methoxyethyl)-2,6-dioxopiperidin-3-yl)-1,3-dioxoisoindolin-7-yl)acetamide
Acetic anhydride (0.5 mL) and DMAP (3 mg) were added to a THF solution of 4-amino-2-(1-(2-methoxyethyl)-2,6-dioxopiperidin-3-yl)isoindoline-1,3-dione (50 mg). The reaction mixture was allowed to react for 8 hrs at room temperature. Then, DCM (15 mL) were added and solvents were removed by rotary evaporation in vacuo. The residue was washed with 0.5 N aqueous hydrochloric acid, saturated sodium bicarbonate, and brine, dried over anhydrous magnesium sulfate, and filtered. Pale white solid (38 mg) was obtained after removal of solvent by rotary evaporation in vacuo. MS (m/e): 374 (M+H).

reactant | Acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | THF | C1CCOC1 | C4H8O
reactant | 4-amino-2-(1-(2-methoxyethyl)-2,6-dioxopiperidin-3-yl)isoindoline-1,3-dione | 50 mg | NC1=C2C(N(C(C2=CC=C1)=O)C1C(N(C(CC1)=O)CCOC)=O)=O | C16H17N3O5
catalyst | DMAP | 3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | N-(2-(1-(2-methoxyethyl)-2,6-dioxopiperidin-3-yl)-1,3-dioxoisoindolin-7-yl)acetamide | 38 mg | COCCN1C(C(CCC1=O)N1C(C2=C(C=CC=C2C1=O)NC(C)=O)=O)=O | C18H19N3O6
